US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-iodo-benzonitrile
In analogy to example 5b, 5-iodo-2-(4-methyl-imidazol-1-yl)-benzonitrile (+regioisomer) was reacted with Eschenmoser's salt in DMF for 72 h at 90° C. Evaporation of the solvent, aqueous workup and chromatography (SiO2, dichloromethane:methanol=100:0 to 97:3) afforded the title compound as a white solid (yield: 38%). MS: m/e=367.0 [M+H]+.

reactant | 5-iodo-2-(4-methyl-imidazol-1-yl)-benzonitrile | IC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H8IN3
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-iodo-benzonitrile | yield: 38% | CN(C)CC1=C(N=CN1C1=C(C#N)C=C(C=C1)I)C | C14H15IN4
